US05356904
To a solution of 1-{1-[4-(2-imidazolyl)benzoyl]-4-piperidinyl}-3,4-dihydrocarbostyril (1.0 g) and potassium carbonate (0.35 g) in dimethylformamide (10 ml) is added methyl iodide (0.16 ml) under ice-cooling, and the mixture is stirred at room temperature overnight. Further, to the mixture are added methyl iodide (0.16 ml) and potassium carbonate (0.3 g), and the mixture is stirred at room temperature for 8 hours. The mixture is poured into ice-water, extracted with ethyl acetate, washed with water and dried over sodium sulfate. After concentrated under reduced pressure, the resulting residue is purified by silica gel column chromatography (eluent; dichloromethane:methanol=25:1) and recrystallized from ethyl acetate to give 1-{1-[4-(1-methyl-2-imidazolyl)benzoyl]-4-piperidinyl}-3,4-dihydrocarbostyril (0.15 g) as colorless scales, m.p. 177°-179° C.

reactant | 1-{1-[4-(2-imidazolyl)benzoyl]-4-piperidinyl}-3,4-dihydrocarbostyril | 1.0 g | N1C(=NC=C1)C1=CC=C(C(=O)N2CCC(CC2)N2C(=O)CCC3=CC=CC=C23)C=C1 | C24H24N4O2
reactant | potassium carbonate | 0.35 g | C([O-])([O-])=O.[K+].[K+]
reactant | methyl iodide | 0.16 ml | CI | CH3I
reactant | methyl iodide | 0.16 ml | CI | CH3I
reactant | potassium carbonate | 0.3 g | C([O-])([O-])=O.[K+].[K+]
solvent | dimethylformamide | 10 ml | CN(C=O)C | C3H7NO
product | 1-{1-[4-(1-methyl-2-imidazolyl)benzoyl]-4-piperidinyl}-3,4-dihydrocarbostyril | 0.15 g | CN1C(=NC=C1)C1=CC=C(C(=O)N2CCC(CC2)N2C(=O)CCC3=CC=CC=C23)C=C1 | C25H26N4O2
